US05646142
Preparation of 2-(3-Bromopropyl)-4-ethylamino-3,4-dihydro-2H-thieno-[3,2-e]-1,2-thiazine-6-sulfonamide 1,1-dioxide
A stirred solution of (+)-(R)-4-ethylamino-3,4-dihydro-2-(3-methoxypropyl)-2H-thieno-[3,2-e]-1,2-thiazine-6-sulfonamide-1,1-dioxide hydrochloride (4.5 g, 110.7 mmol) in 48% HBr (20.0 mL) was heated at 80° C. for 72 h. The reaction mixture was concentrated in vacuo at 60° C. bath temperature to give a pale tan solid (4.8 g, 96%).

reactant | (+)-(R)-4-ethylamino-3,4-dihydro-2-(3-methoxypropyl)-2H-thieno-[3,2-e]-1,2-thiazine-6-sulfonamide-1,1-dioxide hydrochloride | 110.7 mmol, 4.5 g | Cl.C(C)N[C@H]1CN(S(C2=C1C=C(S2)S(=O)(=O)N)(=O)=O)CCCOC
reactant | HBr | 20.0 mL | Br | BrH
product | 2-(3-Bromopropyl)-4-ethylamino-3,4-dihydro-2H-thieno-[3,2-e]-1,2-thiazine-6-sulfonamide 1,1-dioxide | 4.8 g, 96% | BrCCCN1S(C2=C(C(C1)NCC)C=C(S2)S(=O)(=O)N)(=O)=O | C11H18BrN3O4S3
